US07781435B2
(S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[2-(2-ethoxy-ethylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-amide
(2-Ethoxy-ethyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine was reduced and then coupled with 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 492.6 m/z (M+1).

reactant | (2-Ethoxy-ethyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine | C(C)OCCNCC(C)(N1C=NC(=C1)[N+](=O)[O-])C | C11H20N4O3
reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
product | (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid {1-[2-(2-ethoxy-ethylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-amide | C(C)OCCNCC(C)(C)N1C=NC(=C1)NC([C@H](CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C26H39F2N5O2
